### PR TITLE
[Merged by Bors] - feat(NumberTheory/EllipticDivisibilitySequence): define recursion principle for normalised EDS

### PR DESCRIPTION
**Pull request by Multramate**
... and make implicit variables in `Data.Nat.EvenOddRec` consistent.

---

- [x] depends on: #10814 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by alreadydone** [comment]
I merged master in [this branch](https://github.com/leanprover-community/mathlib4/compare/EDSRec_merge?expand=1); please merge if it looks good.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 1]
```diff
@@ -189,43 +272,76 @@ lemma normEDS'_even (m : ℕ) : normEDS' b c d (2 * (m + 3)) * b =
...
+
+/-- Strong recursion principle for a normalised EDS indexed by `ℕ`: if we have
+ * `P 0`, `P 1`, `P 2`, `P 3`, and `P 4`,
+ * for all `m : ℕ` we can prove `P (2 * (m + 3))` from `P k` for all `k < 2 * (m + 3)`, and
+ * for all `m : ℕ` we can prove `P (2 * (m + 2) + 1)` from `P k` for all `k < 2 * (m + 2) + 1`,
+then we have `P n` for all `n : ℕ`. -/
+@[elab_as_elim]
+noncomputable def normEDSRec' {P : ℕ → Sort u} (base0 : P 0) (base1 : P 1) (base2 : P 2)
+    (base3 : P 3) (base4 : P 4) (even : ∀ m : ℕ, (∀ k < 2 * (m + 3), P k) → P (2 * (m + 3)))
+    (odd : ∀ m : ℕ, (∀ k < 2 * (m + 2) + 1, P k) → P (2 * (m + 2) + 1)) (n : ℕ) : P n :=
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:331]: I wonder what's your consideration for including all smaller `k` rather than just what's necessary, for example
```suggestion
    (odd : ∀ m : ℕ, P (m + 1) → P (m + 2) → P (m + 3) → P (m + 4) → P (2 * (m + 2) + 1)) (n : ℕ) : P n :=
```
in this case? Seems like this would save you some `linarith` when applying it.

Comment (alreadydone) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:331]: Another comment: since this is Sort-valued, you could even define `preNormEDS'` using this, or directly define `preNormEDS` using `normEDSRec` below.

Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:331]: I will change the assumptions. I was told that defining `preNormEDS` using the equation compiler is more elegant.

Comment (alreadydone) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:331]: Yeah I already changed the `even` `odd` assumptions as indicated above in #13057. I agree it's probably fine to leave the definition of `preNormEDS'` as is.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 2]
```diff
@@ -109,49 +114,129 @@ private def normEDS'' (b c d : R) : ℕ → R
...
+  rw [show 2 * (m + 3) = 2 * m + 1 + 5 by rfl, preNormEDS', dif_neg m.not_even_two_mul_add_one]
+  simp only [Nat.mul_add_div two_pos]
+  rfl
+
+/-- The auxiliary sequence for a normalised EDS `W : ℤ → R`,
+with initial values `W(0) = 0`, `W(1) = 1`, `W(2) = 1`, `W(3) = c`, and `W(4) = d`.
+
+This extends `preNormEDS'` by defining its values at negative integers. -/
+def preNormEDS (n : ℤ) : R :=
+  n.sign * preNormEDS' b c d n.natAbs
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:165]: The `natAbs` is unnecessary here and I removed it in #13057. (I also corrected some capitalization like `IsEllSequence_id` there.)

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 1 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:331]: Actually after thinking about it for a bit maybe including all smaller `k` might make it more convenient for me in #10878? In line 464 of the `DivisionPolynomial` file I did something fancy: I replaced the inductive hypotheses with something in terms of `natDegree` and `coeff`, but the same chunk of code somehow worked in the even and odd case simultaneously! If I used your version I feel like the code would be twice longer.

Comment (alreadydone) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: We can certainly have both versions if that's the case :)

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 3]
```diff
@@ -79,26 +80,26 @@ def IsDivSequence (W : ℤ → R) : Prop :=
...
 
-lemma IsDivSequence_mul (x : R) {W : ℤ → R} (h : IsDivSequence W) : IsDivSequence (x • W) :=
+lemma isDivSequence_mul (x : R) {W : ℤ → R} (h : IsDivSequence W) : IsDivSequence (x • W) :=
   fun m n r => mul_dvd_mul_left x <| h m n r
 
-lemma IsEllDivSequence_mul (x : R) {W : ℤ → R} (h : IsEllDivSequence W) :
+lemma isEllDivSequence_mul (x : R) {W : ℤ → R} (h : IsEllDivSequence W) :
     IsEllDivSequence (x • W) :=
-  ⟨IsEllSequence_mul x h.left, IsDivSequence_mul x h.right⟩
+  ⟨isEllSequence_mul x h.left, isDivSequence_mul x h.right⟩
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:102]: Note that I renamed these to `.smul` instead of changing the capitalization, enabling dot notation.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 4]
```diff
@@ -281,3 +282,30 @@ lemma normEDS_even (m : ℕ) : normEDS b c d (2 * (m + 3)) * b =
...
+ * `P 0`, `P 1`, `P 2`, `P 3`, and `P 4`,
+ * for all `m : ℕ` we can prove `P (2 * (m + 3))` from `P k` for all `k < 2 * (m + 3)`,
+ * for all `m : ℕ` we can prove `P (2 * (m + 2) + 1)` from `P k` for all `k < 2 * (m + 2) + 1`, and
+ * for all `n : ℕ` we can extend from `P n` to `P (-n)`,
+then we have `P n` for all `n : ℤ`. -/
+@[elab_as_elim]
+noncomputable def normEDSRec {P : ℤ → Sort u} (base0 : P 0) (base1 : P 1) (base2 : P 2)
+    (base3 : P 3) (base4 : P 4) (even : ∀ m : ℕ, (∀ k < 2 * (m + 3), P k) → P (2 * (m + 3)))
+    (odd : ∀ m : ℕ, (∀ k < 2 * (m + 2) + 1, P k) → P (2 * (m + 2) + 1))
+    (neg : ∀ n : ℕ, P n → P (-n)) : ∀ n : ℤ, P n
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:309]: I think we are missing the recursion principle assuming `(nonneg : ∀ n : ℕ, P n) (neg : ∀ n : ℕ, P n → P (-n))`, and `normEDS` is simply the combination of this principle with `normEDS'`. This is usually achieved with `wlog : 0 ≤ n` in my PR, but it requires deducing `0 ≤ -n` from `¬ n ≤ 0`, which is annoying whether you use `linarith` or explicit lemmas like I do.

If we add this then `normEDSRec` can be removed, and the name can be used by the version I suggested, or maybe a more general version where the inductive hypotheses are like `even : ∀ m : ℕ, (∀ k : ℤ, 0 ≤ k → k < 2 * (m + 3), P k) → P (2 * (m + 3))`, which would avoid rewrites before applying the inductive hypotheses.

Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:309]: Well we do have `Int.rec` that recurses on `ofNat` and `negSucc`... do you think we still want this and call it something like `Int.rec'`?

Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: I'm still not super convinced that we need both `normEDSRec` and `normEDSRec'`, but I've repurposed it as you said and added `Int.negInduction`. I'm somewhat disgusted by the naming inconsistency with the other recursion/induction defs in that file, so someone has to fix those in a separate PR eventually.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 5]
```diff
@@ -281,3 +281,32 @@ lemma normEDS_even (m : ℕ) : normEDS b c d (2 * (m + 3)) * b =
...
+/-- Recursion principle for a normalised EDS: if we have
+ * `P 0`, `P 1`, `P 2`, `P 3`, and `P 4`,
+ * for all `m : ℕ` we can prove `P (2 * (m + 3))` from `P (m + 1)`, `P (m + 2)`, `P (m + 3)`,
+    `P (m + 4)`, and `P (m + 5)`, and
+ * for all `m : ℕ` we can prove `P (2 * (m + 2) + 1)` from `P (m + 1)`, `P (m + 2)`, `P (m + 3)`,
+    and `P (m + 4)`,
+then we have `P n` for all `n : ℕ`. -/
+@[elab_as_elim]
+noncomputable def normEDSRec {P : ℕ → Sort u} (base0 : P 0) (base1 : P 1) (base2 : P 2)
+    (base3 : P 3) (base4 : P 4)
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:306]: I think putting the base cases in one line is prettier:
```suggestion
noncomputable def normEDSRec {P : ℕ → Sort u}
    (base0 : P 0) (base1 : P 1) (base2 : P 2) (base3 : P 3) (base4 : P 4)
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 6]
```diff
@@ -281,3 +281,32 @@ lemma normEDS_even (m : ℕ) : normEDS b c d (2 * (m + 3)) * b =
...
+    (even : ∀ m : ℕ, P (m + 1) → P (m + 2) → P (m + 3) → P (m + 4) → P (m + 5) → P (2 * (m + 3)))
+    (odd : ∀ m : ℕ, P (m + 1) → P (m + 2) → P (m + 3) → P (m + 4) → P (2 * (m + 2) + 1)) (n : ℕ) :
+    P n :=
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:309]: This is a bit different from my version (you assume a Nat-indexed rather than Int-indexed sequence, so you can't have `P (m - 2)` etc.) but I think I can adapt.

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 7]
```diff
@@ -64,41 +65,40 @@ elliptic, divisibility, sequence
...
 
-lemma IsDivSequence_mul (x : R) {W : ℤ → R} (h : IsDivSequence W) : IsDivSequence (x • W) :=
+lemma IsDivSequence.smul (h : IsDivSequence W) (x : R) : IsDivSequence <| x • W :=
   fun m n r => mul_dvd_mul_left x <| h m n r
 
-lemma IsEllDivSequence_mul (x : R) {W : ℤ → R} (h : IsEllDivSequence W) :
-    IsEllDivSequence (x • W) :=
-  ⟨IsEllSequence_mul x h.left, IsDivSequence_mul x h.right⟩
+lemma isEllDivSequence_mul (h : IsEllDivSequence W) (x : R) : IsEllDivSequence <| x • W :=
+  ⟨h.left.smul W x, h.right.smul W x⟩
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:101]: Why do you change parentheses to `<|`? It's one character longer and to me it doesn't look as nice. I'd use `<|` only to avoid nested parentheses.
```suggestion
lemma IsEllDivSequence.smul (h : IsEllDivSequence W) (x : R) : IsEllDivSequence (x • W) :=
  ⟨h.left.smul W x, h.right.smul W x⟩
```

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 8]
```diff
@@ -64,41 +65,40 @@ elliptic, divisibility, sequence
...
   fun _ _ => Int.ofNat_dvd.mpr
 
 /-- The identity sequence is an EDS. -/
-theorem IsEllDivSequence_id : IsEllDivSequence id :=
-  ⟨IsEllSequence_id, IsDivSequence_id⟩
+theorem isEllDivSequence_id : IsEllDivSequence id :=
+  ⟨isEllSequence_id, isDivSequence_id⟩
 
-lemma IsEllSequence_mul (x : R) {W : ℤ → R} (h : IsEllSequence W) : IsEllSequence (x • W) :=
+lemma IsEllSequence.smul (h : IsEllSequence W) (x : R) : IsEllSequence <| x • W :=
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:93]:
```suggestion
variable {W}

lemma IsEllSequence.smul (h : IsEllSequence W) (x : R) : IsEllSequence <| x • W :=
```

**Review by alreadydone — CHANGES_REQUESTED** [review]
LGTM otherwise

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 7 above)
Comment (Multramate) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:101]: It's a habit of mine, and I do think mine looks nicer :)

**Review by alreadydone — APPROVED** [review]
Thanks!
maintainer merge

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/NumberTheory/EllipticDivisibilitySequence.lean]: Can you elaborate? In paper mathematics, function application is usually written `f(x)` with parentheses, so I'd argue mine is closer to the common mathematics notation. When there are nested parentheses people may use different kinds of delimiters like {}, [] at different levels in addition to (), which are not available in Lean, so `<|` is a nice workaround in this regard.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: Mathlib/NumberTheory/EllipticDivisibilitySequence.lean [hunk 9]
```diff
@@ -281,3 +283,33 @@ lemma normEDS_even (m : ℕ) : normEDS b c d (2 * (m + 3)) * b =
...
+    `P (m + 4)`, and `P (m + 5)`, and
+ * for all `m : ℕ` we can prove `P (2 * (m + 2) + 1)` from `P (m + 1)`, `P (m + 2)`, `P (m + 3)`,
+    and `P (m + 4)`,
+then we have `P n` for all `n : ℕ`. -/
+@[elab_as_elim]
+noncomputable def normEDSRec {P : ℕ → Sort u}
+    (base0 : P 0) (base1 : P 1) (base2 : P 2) (base3 : P 3) (base4 : P 4)
+    (even : ∀ m : ℕ, P (m + 1) → P (m + 2) → P (m + 3) → P (m + 4) → P (m + 5) → P (2 * (m + 3)))
+    (odd : ∀ m : ℕ, P (m + 1) → P (m + 2) → P (m + 3) → P (m + 4) → P (2 * (m + 2) + 1)) (n : ℕ) :
+    P n :=
```
Comment (alreadydone) [inline Mathlib/NumberTheory/EllipticDivisibilitySequence.lean:312]: [Polynomial.Chebyshev.induct](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Polynomial/Chebyshev.html#Polynomial.Chebyshev.induct) is like a toy version of this :)
